Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Motrin
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old male with history of HTN, HLD, prior 
episodes of vertigo, who presented with gait unsteadiness and 
light headedness starting 2pm on ___. 

Patient was in normal state of health the afternoon of ___. 
He walked 3 miles in the morning without any difficulty - this 
amount of exercise is not unusual for him. In the early 
afternoon around ___ ___ he fell asleep in bed watching the 
marathon on TV. After awakening he got up to use the bathroom 
and on the walk there, he felt his gait was unsteady but did not 
fall or require any assistance. This gait unsteadiness was 
accompanied by lightheadedness, nausea, sweating, blurry vision, 
and mild headache. Denies any head spinning sensation. He sat, 
then lay down with only minimal improvement, then walked down 
and up his stairs. He had unsteadiness when walking down the 
stairs
reportedly swaying to one side or the other but again did not 
fall or require any assistance. His BP was 180s/120s which was 
high for him. Of note, he recently had increased his metoprolol 
succinate from 25mg daily to 50mg daily last ___ per his 
PCP. He decided to take a shower to see if it would help but 
afterwards he reported diaphoresis, increased nausea with 
vomiting x1 and diarrhea x1 episode. At this point, he called 
EMS and they brought him to us. He described similar two prior 
episodes of vertigo a few years ago. The prior episodes were 
much more severe and at that time he had positive ___ 
maneuver on the left side.

On neuro ROS, +R lateral foot burning intermittent, lower back
pain years ago improved with injection in his back, the pt 
denied
headache, loss of vision, blurred vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. He denies difficulties producing or comprehending
speech.  He denied focal weakness, numbness, parasthesiae, bowel
or bladder incontinence or retention. 

On general review of systems, +rhinorrhea/cold after flu shot 2
weeks ago now resolved. Pt denied recent fever or chills, cough, 
shortness of breath, chest pain or tightness, palpitations.  
Denied nausea, vomiting, diarrhea, constipation or abdominal 
pain.  No recent change in bowel or bladder habits.  No dysuria. 
 Denies arthralgias or myalgias. Denied rash.

#In the ED, initial vital signs were: 97.6 71 175/95 16 98% RA, 
negative orthostatics 
- Exam notable for:  baseline STM deficits, hyperreflexia, and 
unsteadiness with tandem, ___ +
- Labs were notable for CBC and electrolytes within normal 
limits, negative urine analysis, normal lactate and troponin x1  

- Studies performed include CTA head ane neck, CXR, ETT  
- Patient was given 1000 mL NS, IV Labetalol 10 mg, PO 
Metoprolol Succinate XL 100 mg, Meclizine 25 mg 
- Vitals on transfer:  76 152/89 18 98% RA 

The lightheadedness, severe nausea, mild headache all resolved 
after several hours early on in the ED stay. However, when 
getting up to walk in the ED he has noticed persistent but 
improved gait unsteadiness. 

He did not have any vertigo until his RN lay him down for 
orthostatic VS and he experienced <1min of room spinning that 
resolved after being sat back up. In the ED he has had 
hypertension to 200s systolic with improvement to 170s with 10mg 
IV Labetalol. Otherwise, his workup has been largely negative. 
Trop<0.01. EKG with no ST changes. 

#Upon arrival to the floor, the patient was comfortably sitting 
in bed. He confirmed the history above. He reported that his 
dizziness is absent as long as he is lying in bed, and that the 
symptoms recur whenever he stands up.
 
Past Medical History:
HTN
HLD
Hypocalcemia
BRBPR - in setting of NSAIDs resolved with mild Hct drop

 
Social History:
___
Family History:
Sister had stroke in ___. Mother had stroke in ___.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
Vitals: 98.1, HR 76, BP 162/95, RR 16, 98% on RA
General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W anteriorly
Cardiac: RRR, normal S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted

Detailed Neurologic Exam (per neurology evaluation):

-Mental Status: Alert, orientedx3. Able to relate history 
without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Speech
was not dysarthric. Able to follow both midline and appendicular
commands as well as two step commands. Pt was able to register 3
objects and recall ___ spontaneously at 5 minutes with ___ on
category cue. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

___ + to the left eliciting both vertigo and rotator
left beating nystagmus that both resolved after around several
minutes. 
HIT - (but pt not experiencing vertigo)

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally. Crossed adductors and
pectoral jerks present bilaterally. No ankle clonus. 

-Coordination: Very mild intention tremor b/l, no
dysdiadochokinesia noted. No dysmetria on FNF or HKS 
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unable to take more than several steps in tandem -
unsteady with tandem. Romberg with mild sway initially which
resolved.

PHYSICAL EXAMINATION ON DISCHARGE:
==================================
Vitals: 98.1, HR 76, BP 162/95, RR 16, 98% on RA
General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W anteriorly
Cardiac: RRR, normal S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
Neuro: Alert, orientedx3. Able to relate history without
difficulty. Attentive. Language is fluent. CV grossly intact, 
motor strength and sensation intact throughout. No 
dysdiadochokinesia noted. Gait within normal limits.
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 06:15PM BLOOD WBC-6.3 RBC-4.22* Hgb-13.1* Hct-40.4 
MCV-96 MCH-31.0 MCHC-32.4 RDW-14.3 RDWSD-49.7* Plt ___
___ 06:15PM BLOOD Neuts-67.7 ___ Monos-7.0 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.24 AbsLymp-1.42 AbsMono-0.44 
AbsEos-0.12 AbsBaso-0.03
___ 06:15PM BLOOD ___ PTT-32.1 ___
___ 06:15PM BLOOD Plt ___
___ 06:15PM BLOOD Glucose-117* UreaN-20 Creat-1.1 Na-140 
K-4.2 Cl-102 HCO3-26 AnGap-16
___ 06:15PM BLOOD cTropnT-<0.01
___ 06:52PM BLOOD Lactate-1.4

LABS ON DISCHARGE:
==================
___ 06:00AM BLOOD WBC-5.5 RBC-4.13* Hgb-12.7* Hct-39.8* 
MCV-96 MCH-30.8 MCHC-31.9* RDW-14.4 RDWSD-50.4* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-88 UreaN-13 Creat-1.3* Na-143 
K-3.6 Cl-104 HCO3-31 AnGap-12
___ 06:00AM BLOOD Calcium-7.7* Phos-4.0 Mg-2.1

IMAGING:
========
___ CTA HEAD AND NECK:
1. No evidence of acute intracranial hemorrhage. 
2. No evidence of aneurysm greater than 3 mm, dissection or 
vascular 
malformation, or significant luminal narrowing. 
3. Significant sinus disease of the frontal and ethmoid sinuses, 
as described above. 

___ CXR:
No acute intrathoracic process.

___ STRESS TEST:
IMPRESSION: Fair exercise tolerance for age. No anginal symptoms 
or ischemic ST segment changes. Resting systolic and diastolic 
hypertension with an exaggerated blood pressure response to 
exercise. Appropriate heart rate response to exercise.
 
Brief Hospital Course:
___ year-old male with hx of HTN, HLD, BPPV, who presented with 
persistent gait unsteadiness, light 
headedness/nausea/diaphoresis lasting for several hours. 

ACTIVE ISSUES:
#Dizziness: Per neurology, neurologic exam was significant for 
baseline STM deficits, hyperreflexia, and unsteadiness with 
tandem. Otherwise, there were no localizing neurologic deficits. 
CTA head and neck without contrast and brain MRI did not show 
any evidence of acute bleed or ischemia. Also, ___ was 
positive to the left eliciting both vertigo and rotator left 
beating nystagmus that both resolved after around several 
minutes, likely representing BPPV. The patient's symptoms 
spontaneously resolved.

#Hyper-reflexia: Patient was found to have markedly increased 
reflexes concerning for severe cervical spondylosis. MRI C-spine 
showed multilevel multifactorial cervical spondylosis, most 
prominent at C4-C5 and C5-C6 where there is moderate spinal 
canal narrowing. Neurology recommended soft collar at least at 
night time which patient agreed to pick up at ___ floor 
___ (order placed). Patient was also started on aspirin 
81 mg daily. 

#Hypertension: Patient was found to be hypertensive with SBP up 
to 180's. We increased dose of metoprolol from 50 mg daily to 
100 mg daily and lisinopril 5 mg daily. 

CHRONIC ISSUES:
#Dyslipidemia: Continued home statin.

***TRANSITIONAL ISSUES:***
- Vestibular physical therapy if symptoms of vertigo recur 
(provided with information) 
- We increased dose of metoprolol from 50 mg daily to 100 mg 
daily, started on lisinopril 5 mg daily; to be titrated for BP 
control 
- Patient was incidentally found to have near complete 
opacification of the frontal and anterior ethmoid sinuses 
bilaterally; he did not have any symptoms of sinusitis but he 
was started on fluticasone for possible allergic process
- Vitamin D was changed to Q2 week dosing. 
- Started on ASA 81 mg daily 
# Code Status: Full (confirmed) but would like to think about it
# Emergency Contact/HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Lactaid (lactase) unknown  oral unknown 
3. Atorvastatin 80 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. Multivitamins 1 TAB PO DAILY 
3. Lactaid (lactase) unknown  ORAL Frequency is Unknown 
4. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
RX *fluticasone 50 mcg/actuation 2 sprays nasal once a day Disp 
#*1 Spray Refills:*0
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
BPPV

SECONDARY DIAGNOSES:
Hypertension
Dyslipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You came to the hospital because you experienced 
sudden dizziness and sweating. Imaging of your brain did not 
show any abnormalities. Neurology evaluated you, and your 
symptoms were thought to be secondary to BPPV (Benign Paroxysmal 
Positional Vertigo) caused by a problem in the inner ear. Your 
symptoms resolved spontaneously. Our physical therapy team, 
provided you with education about exercises to prevent further 
episodes of dizziness and referred you for ___ rehab 
should your symptoms recur.  You were also started on aspirin.  
You should wear a soft collar (at least at night time) due to 
cervical stenosis which is causing radiating nerve pain - please 
present to the ___ second floor, ortho tech walk in to be 
fitted for this (order has been placed).  

Also, your blood pressure was found to be elevated so we 
increased the dose of metoprolol and started you on lisinopril.

Please make sure to take all your medications on time and follow 
up with your doctors as ___.

Best regards,
Your ___ team
 
Followup Instructions:
___